US08835472B2
N-{1-Methyl-2-[4-(2-methylsulfanyl-pyrimidin-4-ylethynyl)-phenyl]-ethyl}acetamide
To 0.52 g (2.58 mmol) N-[2-(4-ethynyl-phenyl)-1-methyl-ethyl]-acetamide (I58.3) and 0.50 g (1.98 mmol) 4-iodo-2-(methylthio)pyrimidine in 3 mL sec-butylamine and 3 mL water are added 0.14 g (0.20 mmol) bis(triphenylphosphine)dichloro-palladium and the mixture is stirred at r.t. over night. The reaction mixture is diluted with water and extracted with DCM. The organic layer is dried with Na2SO4 and the solvent is removed in vacuo. The residue is purified by column chromatography (silica gel, DCM/MeOH 96/4). The resulting product is triturated with diethylether.

reactant | N-[2-(4-ethynyl-phenyl)-1-methyl-ethyl]-acetamide | 2.58 mmol, 0.52 g | C(#C)C1=CC=C(C=C1)CC(C)NC(C)=O | C13H15NO
reactant | 4-iodo-2-(methylthio)pyrimidine | 1.98 mmol, 0.50 g | IC1=NC(=NC=C1)SC | C5H5IN2S
solvent | sec-butylamine | 3 mL | C(C)(CC)N | C4H11N
solvent | water | 3 mL | O | H2O
catalyst | bis(triphenylphosphine)dichloro-palladium | 0.20 mmol, 0.14 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-{1-Methyl-2-[4-(2-methylsulfanyl-pyrimidin-4-ylethynyl)-phenyl]-ethyl}acetamide | CC(CC1=CC=C(C=C1)C#CC1=NC(=NC=C1)SC)NC(C)=O | C18H19N3OS
